US05888971
Fluorenylmethoxycarbonyl chloride (4.87 g, 0.02 mol) to a mixture of aminooctanoic acid (3.0 g ,0.02 mol) in 200 mL of 10% Na2CO3 (aq) and dioxane (150 mL) at 0° C. The mixture was stirred for 2.5 h at 0° C., acidified to pH 5 with acetic acid and extracted three times with CHCl3. The combined organic extracts were washed with H2O, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, CHCl3 →95:5 CHCl3 --MeOH) to afford 8-fluorenylmethoxycarbonylaminooctanoic acid (6.4 g) as a solid: MS 382 (MH+). The product was dissolved in CH2Cl2 (40 mL), cooled to 0° C., and treated with methoxymethyl amine hydrochloride (2.05 g, 21.1 mimol), triethylamine (8.1 mL) and BOP reagent (8.0 g). This mixture was stirred for 12 h at 0° C., washed sequentially with 3N HCI, NaHCO3 (sat"d. aq.) and brine. The organic phase was dried (Na2SO4) and concentrated. in vacuo. The residue was purified by flash column chromatography (silica gel; CHCl3 →98:2 CHCl3 --MeOH) to afford 8-fluorenylmethoxycarbonyl-aminooctanoic acid N,N-methoxymethyl amide (7.1 g): MS m/z 425 (MH+). A solution of the product (6.8 g) in THF (80 mL) was cooled to -40° C. and treated dropwise with 1.0M DIBAL/THF (48.5 mL). The mixture was stirred an additional 15 min, quenched with 3N HCI (50 mL) and warmed to room temperature. The resulting aqueous layer was extracted repeatedly with CHCl3 and the combined organic extracts were washed with brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by chromatography (silica gel; CH2Cl2 →2% MeOH--CH2Cl2) to afford aldehyde 13a as a solid: 5.2 g; MS m/z 366 (MH+).

reactant | Fluorenylmethoxycarbonyl chloride | 0.02 mol, 4.87 g | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
reactant | aminooctanoic acid | 0.02 mol, 3.0 g | NC(C(=O)O)CCCCCC | C8H17NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | Na2CO3 | 200 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | 8-fluorenylmethoxycarbonylaminooctanoic acid | 6.4 g | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)NCCCCCCCC(=O)O | C23H27NO4
